US04760179
N-tert-butyl-[3-(N,N-dibenzylaminoxy)-propionamide]
A solution of 21.33 g of dibenzylhydroxylamine in 100 ml of dry tetrahydrofuran is admixed with 1.12 g of potassium-tert-butoxide followed by 12.70 g of N-tert-butylacrylamide. The solution is heated under reflux for 24 hours under N2. The crude reaction mixture is concentrated under reduced pressure and the residue is partitioned between water and methylene chloride. The organic layer is washed with water, brine dried (MgSO4) and evaporated under reduced pressure. Purification by liquid chromatography affords the title compound as an oil.

reactant | dibenzylhydroxylamine | 21.33 g | C(C1=CC=CC=C1)N(O)CC1=CC=CC=C1 | C14H15NO
reactant | potassium-tert-butoxide | 1.12 g | CC(C)([O-])C.[K+]
reactant | N-tert-butylacrylamide | 12.70 g | C(C)(C)(C)NC(C=C)=O | C7H13NO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-tert-butyl-[3-(N,N-dibenzylaminoxy)-propionamide] | C(C)(C)(C)NC(CCON(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C21H28N2O2
